* C:\Users\Agus\Documents\GitHub\E2-TPs\TP2\TP2\circuito libro Agus.asc
C1 N032 Vin 22µ
C2 N030 N032 22µ
R1 N030 0 10k
C3 0 V- 220µ
Q1 N034 N030 N023 0 2N2907
Q2 N035 N018 N024 0 2N2907
Q3 N028 N040 N041 0 2N2222
Q4 N040 N040 N042 0 2N2222
R2 N041 V- 68
R3 N042 V- 68
R4 N010 N023 100
R5 N010 N024 100
Q5 N010 N005 N004 0 2N2907
R6 V+ N004 150
C4 V+ 0 220µ
R7 N006 N005 1k
R8 N018 N033 330
C5 N033 0 220µ
D1 0 N033 D
R9 N021 N018 330
C6 N016 N021 5p
R10 N016 N018 10k
C7 N029 N028 150p
R11 N029 V- 2k2
C8 N022 N029 300p
Q6 0 N028 N036 0 2N2222
Q7 N028 N038 V- 0 2N2222
R12 N039 N038 1k
R13 V- N036 1k
R14 V- N039 47
Q8 N022 N036 N039 0 2N2222
C9 V+ N011 47µ
R15 N006 N011 10k
R16 N011 0 10k
Q9 N006 N001 V+ 0 2N2907
R17 N002 N001 1k
R18 N007 N006 1k
R19 N002 V+ 100
Q10 N008 N007 N002 0 2N2907
R20 N008 N013 15
R21 N009 N013 100
R22 N017 N008 820
C10 N008 N022 47µ
Q11 N013 N017 N022 0 2N2222
R23 N017 N019 100
XU1 N019 N022 N022 pot R=1K cur=.5
D2 N009 N015 D
Q12 N015 N014 N016 0 2N2222
Q13 N026 N020 N016 0 2N2907
D3 N026 N031 D
R24 N031 N022 100
R25 N014 N016 120
R26 N016 N020 120
R27 N016 N027 0.22
R28 N012 N016 0.22
R29 N012 N014 270
R30 N027 N020 270
R31 N025 N016 10
C11 N025 0 0.1µ
Q14 N037 N031 N027 0 2N2907
R32 N020 V- 15k
R33 N037 V- 100
C12 0 V- 0.1µ
R34 Vout N016 10
L1 N016 Vout 1µ
R35 V+ N014 15k
R36 V+ N003 100
Q16 N003 N009 N012 0 2N2222
C13 V+ 0 0.1µ
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0)
XU2 N027 N037 V- TIP110
XU3 N012 N003 V+ TIP115
R37 Vout 0 10
R38 N034 N028 2k2
R39 N035 N040 2k2
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
.fourier 10000 V(Vout)
.tran 0 30.5m 30m 0.5u
.param Vin 0.5
.param Freq 10k
.lib TCLib/pot.lib
.lib TCLib/TIP110.lib
.lib TCLib/TIP115.lib
.backanno
.end
