* C:\Users\lucia\OneDrive\Documents\1C2023\Electrónica II\TP2 git\E2-TPs\TP2\TP2\circuito libro Agus.asc
C1 N042 Vin 22µ
C2 N038 N042 22µ
R1 N038 0 10k
C3 0 V- 220µ
Q1 N034 N038 N029 0 2N2907
Q2 N050 N023 N030 0 2N2907
Q3 N034 N050 N051 0 2N2222
Q4 N050 N050 N052 0 2N2222
R2 N051 V- 68
R3 N052 V- 68
R4 N014 N029 100
R5 N014 N030 100
Q5 N014 N008 N006 0 2N2907
R6 V+ N006 150
C4 V+ 0 220µ
R7 N009 N008 1k
R8 N023 N043 330
C5 N043 0 220µ
D1 0 N043 D
R9 N027 N023 330
C6 N020 N027 5p
R10 N020 N023 10k
C7 N035 N034 150p
R11 N035 V- 2k2
C8 N028 N035 300p
Q6 0 N034 N045 0 2N2222
Q7 N034 N047 V- 0 2N2222
R12 N048 N047 1k
R13 V- N045 1k
R14 V- N048 47
Q8 N028 N045 N048 0 2N2222
C9 V+ N015 47µ
R15 N009 N015 10k
R16 N015 0 10k
Q9 N009 N003 V+ 0 2N2907
R17 N004 N003 1k
R18 N010 N009 1k
R19 N004 V+ 100
Q10 N012 N010 N004 0 2N2907
R20 N012 N017 15
R21 N013 N017 100
R22 N021 N012 820
C10 N012 N028 47µ
Q11 N017 N021 N028 0 2N2222
R23 N021 N024 100
XU1 N024 N028 N028 pot R=1K cur=.5
D2 N013 N019 D
Q12 N019 N018 N020 0 2N2222
Q13 N032 N026 N020 0 2N2907
D3 N032 N040 D
R24 N040 N028 100
R25 N018 N020 120
R26 N020 N026 120
R27 N020 N033 0.22
R28 N016 N020 0.22
R29 N016 N018 270
R30 N033 N026 270
R31 N031 N020 10
C11 N031 0 0.1µ
Q14 N046 N040 N033 0 2N2907
R32 N026 V- 15k
R33 N046 V- 100
C12 0 V- 0.1µ
R34 Vout N020 10
L1 N020 Vout 1µ
R35 V+ N018 15k
R36 V+ N005 100
Q16 N005 N013 N016 0 2N2222
C13 V+ 0 0.1µ
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0)
R37 Vout 0 10
Q15 N033 N046 V- 0 NPN
Q17 N016 N005 V+ 0 PNP
R38 N022 N041 10k
R39 N041 0 1k
Q18 N044 N041 N036 0 PNP
Q19 N049 0 N037 0 PNP
R40 N025 N036 1k1
R42 N044 V- 470
R43 N049 V- 470
Q20 N039 N044 V- 0 NPN
Q21 V- N039 N022 0 PNP
R44 N022 N039 470
R45 V- V- 0.68
D4 V- N022 D
R41 N025 N037 1k1
Q22 N025 N011 N007 0 PNP
R46 N001 N007 100
D5 N001 N002 D
D6 N002 N011 D
R47 N011 0 47k
D7 N022 N001 D
.model D D
.lib C:\Users\lucia\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\lucia\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
.fourier 10000 V(Vout)
.tran 0 30.5m 30m 0.5u
.param Vin 0.5
.param Freq 10k
.lib TCLib/pot.lib
.backanno
.end
