* C:\Users\Agus\Documents\GitHub\E2-TPs\TP2\TP2\circuito libro Agus.asc
C1 N022 Vin 22µ
C2 N023 N022 22µ
R1 N023 0 120k
Q1 N033 N023 N019 0 2N2907
Q2 N041 N018 N020 0 2N2907
Q3 N033 N041 N047 0 2N2222
Q4 N041 N041 N048 0 2N2222
R2 N047 V- 68
R3 N048 V- 68
R4 N014 N019 100
R5 N014 N020 100
Q5 N014 N005 N004 0 2N2907
R6 V+ N004 150
C4 V+ 0 220µ
R7 N006 N005 1k
R8 N018 N030 330
C5 N030 0 220µ
D1 0 N030 D
R9 N024 N018 330
C6 VoFeed N024 5p
R10 VoFeed N018 10k
C7 N034 N033 150p
R11 N034 V- 2k2
C8 N031 N034 300p
Q6 0 N033 N043 0 2N2222
Q7 N033 N045 V- 0 2N2222
R12 N046 N045 1k
R13 V- N043 1k
R14 V- N046 47
Q8 N031 N043 N046 0 2N2222
C9 V+ N012 47µ
R15 N006 N012 10k
R16 N012 0 10k
Q9 N006 N001 V+ 0 2N2907
R17 N002 N001 1k
R18 N007 N006 1k
R19 N002 V+ 100
Q10 N009 N007 N002 0 2N2907
R20 N009 N013 15
R22 N021 N009 820
C10 N009 N031 47µ
Q11 N013 N021 N031 0 2N2222
R23 N021 N025 100
XU1 N025 N031 N031 pot R=1K cur=.5
D2 N013 N015 D
Q12 N015 N016 VoFeed 0 2N2222
Q13 N032 N028 VoFeed 0 2N2907
D3 N032 N031 D
R25 N016 VoFeed 120
R26 VoFeed N028 120
R27 VoFeed N029 0.22
R28 N017 VoFeed 0.22
R29 N017 N016 270
R30 N029 N028 270
R31 N027 VoFeed 10
C11 N027 0 0.1µ
Q14 N039 N031 N029 0 2N2907
R32 N028 V- 15k
R33 N039 V- 100
R34 Vout VoFeed 10
L1 VoFeed Vout 1µ
R35 V+ N016 15k
R36 V+ N010 100
Q16 N010 N013 N017 0 2N2222
V1 V+ 0 20
V2 0 V- 20
V3 Vin 0 SINE(0 {Vin} {Freq} 0 0 0)
RL Vout 0 10
R38 VoFeed N038 10k
R39 N038 0 1k
Q18 N040 N038 N035 0 PNP
Q19 N042 0 N036 0 PNP
R40 N026 N035 1k1
R42 N040 V- 470
R43 N042 V- 470
Q20 N037 N040 N044 0 NPN
Q21 N044 N037 VoFeed 0 PNP
R44 VoFeed N037 470
R45 N044 V- 0.68
D4 V- VoFeed D
R41 N026 N036 1k1
Q22 N026 N011 N008 0 PNP
R46 V+ N008 100
D5 V+ N003 D
D6 N003 N011 D
R47 N011 0 47k
D7 VoFeed V+ D
C14 V- 0 220µ
C3 V+ N005 47µ
C12 V- 0 200n
C13 V+ 0 200n
XU2 N017 N010 V+ TIP115
XU3 N029 N039 V- TIP110
.model D D
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Agus\AppData\Local\LTspice\lib\cmp\standard.bjt
;.fourier 1000 V(Vout)
;.tran 0 50m 40m 0.5u ;50m 40m 0.5u
.fourier 10000 V(Vout)
.tran 0 30.5m 30m 0.5u
.param Vin 0.5
.param Freq 10k
* polo dominante de todo el circuito
.lib TCLib/pot.lib
.lib TCLib/TIP110.lib
.lib TCLib/TIP115.lib
.backanno
.end
